US08877776B2
1.6 Preparation of N-(4-{[6,7-bis(methyloxy)quinolin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
The solution from the previous step containing 1-(4-fluoro-phenylcarbamoyl)-cyclopropanecarbonyl chloride was added to a mixture of 4-(6,7-dimethoxy-quinoline-4-yloxy)-phenylamine (3.0 kg) and potassium carbonate (4.0 kg) in THF (27.0 kg) and water (13.0 kg) at a rate such that the batch temperature did not exceed 30° C. When the reaction was complete (in typically 10 minutes), water (74.0 kg) was added. The mixture was stirred at 15-30° C. for approximately 10 hours, which resulted in the precipitation of the product. The product was recovered by filtration, washed with a premade solution of THF (11.0 kg) and water (24.0 kg), and dried at approximately 65° C. under vacuum for approximately 12 hours to afford the title compound (free base, 5.0 kg). 1H NMR (400 MHz, d6-DMSO): δ 10.2 (s, 1H), 10.05 (s, 1H), 8.4 (s, 1H), 7.8 (m, 2H), 7.65 (m, 2H), 7.5 (s, 1H), 7.35 (s, 1H), 7.25 (m, 2H), 7.15 (m, 2H), 6.4 (s, 1H), 4.0 (d, 6H), 1.5 (s, 4H). LC/MS: M+H=502.

reactant | 1-(4-fluoro-phenylcarbamoyl)-cyclopropanecarbonyl chloride | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)Cl | C11H9ClFNO2
reactant | 4-(6,7-dimethoxy-quinoline-4-yloxy)-phenylamine | 3.0 kg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | potassium carbonate | 4.0 kg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 13.0 kg | O | H2O
reactant | water | 74.0 kg | O | H2O
solvent | THF | 27.0 kg | C1CCOC1 | C4H8O
product | N-(4-{[6,7-bis(methyloxy)quinolin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 5.0 kg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F | C28H24FN3O5
